US07709649B2
To a stirred solution of 2,3-dichloro-5-chloromethylpyridine (3.75 g, 19.1 mmol) in THF (30 mL) was added solid sodium thiomethoxide (2.01 g, 29 mmol) in one portion and the resulting mixture was stirred at room temperature for 3 h. The reaction mixture was diluted with ether (100 mL), washed with 0.1 N aqueous HCl (50 mL) solution and brine (50 mL), dried over anhydrous MgSO4, filtered, concentrated, and dried to give 3.55 g of 2,3-dichloro-5-methylthio-methylpyridine as a dark yellow liquid in 89% crude yield. The crude product was analytically pure without further purification. GC-MS: calcd for C7H7Cl2NS [M]+ 208. Found 208.

reactant | 2,3-dichloro-5-chloromethylpyridine | 19.1 mmol, 3.75 g | ClC1=NC=C(C=C1Cl)CCl | C6H4Cl3N
reactant | sodium thiomethoxide | 29 mmol, 2.01 g | C[S-].[Na+]
reactant | THF | 30 mL | C1CCOC1 | C4H8O
solvent | ether | 100 mL | CCOCC | C4H10O
product | 2,3-dichloro-5-methylthio-methylpyridine | 3.55 g | ClC1=NC=C(C(=C1Cl)C)SC | C7H7Cl2NS
